US05140031
C. (3S-trans)-N"-Cyano-N-(6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-N'-phenylguanidine
To a solution of N-cyano-N'-phenylthiourea (2.11 g, 11.9 mmol) and (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (2.0 g, 9.1 mmol), title B compound, in dimethylformamide (20 mL) under argon was added 1-(3-dimethylaminopropyl)-2-ethylcarbodiimide hydrochloride (2.23 g, 11.9 mmol) at room temperature. The reaction mixture was stirred at room temperature for 2 hours and then partitioned between 1N hydrochloric acid and ethyl acetate. The organic phase was separated and the aqueous phase was reextracted with ethyl acetate. The combined organic extracts were washed with water, sodium bicarbonate and brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated and the crude product was purified by flash chromatography on silica gel eluting with ethyl acetate/hexanes (7:3) to give a colorless solid which was triturated with ether to yield the title compound (0.35 g), m.p. 215°-216° C.: [α]D25 =-33.5° (c=1, MeOH); 1H NMR (DMSO-d6) δ 9.28 (s, 1 H), 7.58 (d, J=8.0 Hz, 3 H), 7.35 (m, 4 H), 7.15 (m, 1 H), 6.90 (d, J=8.2 Hz, 1 H), 5.92 (br s, 1 H), 4.92 (t, J=9.0 Hz, 1 H), 3.72 (br d, J=5.9 Hz, 1 H), 1.41, 1.18 (s, 3 H each); 13C NMR (DMSO-d6) 159.2, 156.3, 137.5, 132.6, 132.5, 129.0 124.8, 124.7, 123.6, 119.0, 117.8, 117.0, 102.6, 80.4, 70.9, 51.9, 26.6, 18.6; IR (KBr) 2226, 2179, 1609, 1582, 1491, 1267 cm-1.

reactant | N-cyano-N'-phenylthiourea | 11.9 mmol, 2.11 g | C(#N)NC(=S)NC1=CC=CC=C1 | C8H7N3S
reactant | (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 9.1 mmol, 2.0 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | 1-(3-dimethylaminopropyl)-2-ethylcarbodiimide hydrochloride | 11.9 mmol, 2.23 g | Cl.CN(CCCCCN=C=N)C
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (3S-trans)-N"-Cyano-N-(6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-N'-phenylguanidine | 0.35 g | C(#N)N=C(N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)NC2=CC=CC=C2 | C20H19N5O2
